US07230099B2
Step B: Preparation of (4-bromo-2-fluorophenyl)-[8-chloro-6-(5-chloromethyl-[1,3,4]oxadiazol-2-yl)-imidazo[1,2-a]pyridin-7-yl]-amine.
7-(4-Bromo-2-fluorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid N′-(2-chloro-acetyl)-hydrazide (63 mg, 0.13 mmol) was suspended in POCl3 (1 mL). The reaction mixture was heated to 100° C. for 8 hours, during which time it became a bright red solution. The reaction mixture was cooled to room temperature and the solvent evaporated under reduced pressure. The residue was dissolved in ethyl acetate and washed with saturated aqueous NaHCO3, saturated aqueous NaCl, dried over Na2SO4 and concentrated. The crude product (38 mg, 62%) was used without further purification in next step. MS ESI (+) m/z 456, 458 (M+, Cl, Br pattern) detected.

reactant | 7-(4-Bromo-2-fluorophenylamino)-8-chloroimidazo[1,2-a]pyridine-6-carboxylic acid N′-(2-chloro-acetyl)-hydrazide | 0.13 mmol, 63 mg | ClCC(=O)NNC(=O)C=1C(=C(C=2N(C1)C=CN2)Cl)NC2=C(C=C(C=C2)Br)F | C16H11BrCl2FN5O2
solvent | POCl3 | 1 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | (4-bromo-2-fluorophenyl)-[8-chloro-6-(5-chloromethyl-[1,3,4]oxadiazol-2-yl)-imidazo[1,2-a]pyridin-7-yl]-amine | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C=1OC(=NN1)CCl)C=CN2)Cl)F | C16H9BrCl2FN5O
